US06953790B2
Step F: N-[1-(2,3-Difluorobenzyl)-5-oxo-4-(2,2,2-trifluoroethyl)-1,4-diazepan-6-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Triethylamine (0.012 mL, 0.133 mmol) was added to a solution of 6-amino-1-(2,3-difluorobenzyl)-4-(2,2,2-trifluoroethyl)-1,4-diazepan-5-one (45 mg, 0.133 mmol) and 4-nitrophenyl chloroformate (27 mg, 133 mmol) in tetrahydrofuran (2.5 mL) at 0° C. After 1 h, 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride (43 mg, 0.147 mmol) and triethylamine (0.048 mL, 0.532 mmol) were added and the mixture allowed to warm to ambient temperature. After 18 h, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with water (2×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→92% dichloromethane/methanol (10% ammonium hydroxide/methanol)] gave the title compound (67 mg). MS 582.2262 (M+1). 1H NMR (500 MHz, CDCl3) δ 8.77 (s, 1H), 8.03 (d, J=5.4 Hz, 1H), 7.31 (d, J=8.1 Hz, 1H), 7.27-7.24 (m, 1H), 7.09-7.05 (m, 2H), 6.98 (dd, J=8.1, 5.4 Hz, 1H), 5.99 (d, J=4.9 Hz, 1H), 4.91-4.88 (m, 1H), 4.57-4.50 (m, 1H), 4.25-4.16 (m, 3H), 4.00-3.92 (m, 2H), 3.84 (dd, J=32.7, 14.2 Hz, 2H), 3.36-3.34 (m, 1H), 3.20 (d, J=12.5 Hz, 1H), 2.99-2.91 (m, 3H), 2.44-2.37 (m, 2H), 2.31-2.18 (m, 2H), 1.90 (d, J=11.0 Hz, 2H).

reactant | Triethylamine | 0.133 mmol, 0.012 mL | C(C)N(CC)CC | C6H15N
reactant | 6-amino-1-(2,3-difluorobenzyl)-4-(2,2,2-trifluoroethyl)-1,4-diazepan-5-one | 0.133 mmol, 45 mg | NC1C(N(CCN(C1)CC1=C(C(=CC=C1)F)F)CC(F)(F)F)=O | C14H16F5N3O
reactant | 4-nitrophenyl chloroformate | 133 mmol, 27 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2-oxo-1-(4-piperidinyl)-2,3-dihydro-1H-imidazo[4,5-b]pyridine dihydrochloride | 0.147 mmol, 43 mg | Cl.Cl.O=C1N(C=2C(=NC=CC2)N1)C1CCNCC1
reactant | triethylamine | 0.532 mmol, 0.048 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | N-[1-(2,3-Difluorobenzyl)-5-oxo-4-(2,2,2-trifluoroethyl)-1,4-diazepan-6-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 67 mg | FC1=C(CN2CCN(C(C(C2)NC(=O)N2CCC(CC2)N2C(NC3=NC=CC=C32)=O)=O)CC(F)(F)F)C=CC=C1F | C26H28F5N7O3
